Test1
*SPICE Netlist generated by Advanced Sim server on 28.02.2026 15:03:43
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 100n
CC2 NetC2_1 NetC2_2 100n
CC3 0 NetC3_2 1n
QQ1 NetC2_1 NetC1_2 NetQ1_3  NPN_Gummel_Poon
RR1 NetC1_2 NetR1_2 430K TC1=0 TC2=0
RR2 0 NetC1_2 43K TC1=0 TC2=0
RR3 NetC2_1 NetR1_2 10K TC1=0 TC2=0
RR4 0 NetQ1_3 1K TC1=0 TC2=0
RR5 NetR5_1 NetC2_2 1K TC1=0 TC2=0
RR6 0 NetR5_1 99K TC1=0 TC2=0
VV1 NetC1_1 0 DC 0 PWL(FILE='C:\wavfile\signal.pwl') AC 200m 0
VVDD NetR1_2 0 9 AC 0 0

.PROBE {V(NetR5_1)} =PLOT(1) =AXIS(1) =NAME(VOUT) =UNITS(V)
.PROBE {V(NetC1_2)} =PLOT(1) =AXIS(1) =NAME(Va) =UNITS(V)
.PROBE {V(NetC1_1)} =PLOT(1) =AXIS(1) =NAME(VIN) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
* BJTs
*---------------------------------------------------------------------------------------------------------------------
* Gummel-Poon Model
.model NPN_Gummel_Poon npn(level=1)

.END